US07790758B2
Intermediate 10 Enantiomer 1: chiral Trans-ethyl 2-(4-bromophenyl)cyclopropanecarboxylate, Enantiomer 1
NaOtBu (3.23 g, 33.6 mmol) and 10 mL of dry DME were charged in round bottom flask previously inerted with nitrogen. Triethyl phosphonoacetate (7.7 mL, 38.64 mmol) was added at a rate such to maintain internal temperature below 30° C., about 30 minutes. The mixture was stirred until complete dissolution was observed, about 30 minutes. A solution of chiral 2-(4-bromophenyl)oxirane Enantiomer 1 (Intermediate 9 Enantiomer 1) (3.35 g, 16.8 mmol) in 6 mL of dry DME was added dropwise maintaining internal temperature between 20° C. and 30° C. The reaction mixture was stirred at 60° C. for 24 h. The temperature was increased to 70° C. and maintained at this temperature for further 6 h. Mixture was cooled to room temperature, taken up with 100 mL Et2O, cooled to 0° C. and poured in approx. 80 mL cold ss NH4Cl. The solution was diluted with approx. 20 mL water, the phases were separated and the aqueous one extracted with Et2O 2×100 mL. Combined organics were dried over Na2SO4 and evaporated to dryness to get crude title material that was purified by SiO2 flash chromatography (Horizon 65M) eluting with Et2O/n-hexane 5/95 to get after evaporation of the solvent, pure title material, 3.35 g as a colourless oil.

reactant | NaOtBu | 33.6 mmol, 3.23 g | CC(C)(C)[O-].[Na+]
reactant | 2-(4-bromophenyl)oxirane | BrC1=CC=C(C=C1)C1OC1 | C8H7BrO
reactant | Et2O | 100 mL | CCOCC | C4H10O
solvent | DME | 6 mL | COCCOC | C4H10O2
solvent | NH4Cl | approx. 80 mL | [NH4+].[Cl-]
solvent | water | approx. 20 mL | O | H2O
solvent | DME | 10 mL | COCCOC | C4H10O2
product | Trans-ethyl 2-(4-bromophenyl)cyclopropanecarboxylate | BrC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)OCC | C12H13BrO2
